US05283248
A solution of N-ethyl-4'-fluoro-5'-(4-methyl-1-piperazinyl)-2'-nitroacetanilide (20 g, 61 mmol) in methanol (160 ml) is treated with an aqueous potassium hydroxide solution (34.6 g, 616 mmol). The solution is heated to 80° for 3 hours and thereafter cooled to room temperature. The crystals obtained are filtered off and washed with water. There are obtained 13.7 g (78.7%) of 1-(5-(ethylamino)-2-fluoro-4-nitrophenyl)-4-methylpiperazine with a m.p. of 149°-150°.

reactant | N-ethyl-4'-fluoro-5'-(4-methyl-1-piperazinyl)-2'-nitroacetanilide | 61 mmol, 20 g | C(C)N(C1=C(C=C(C(=C1)N1CCN(CC1)C)F)[N+](=O)[O-])C(C)=O | C15H21FN4O3
reactant | potassium hydroxide | 616 mmol, 34.6 g | [OH-].[K+]
solvent | methanol | 160 ml | CO | CH4O
product | 1-(5-(ethylamino)-2-fluoro-4-nitrophenyl)-4-methylpiperazine | 13.7 g, 78.7% | C(C)NC=1C(=CC(=C(C1)N1CCN(CC1)C)F)[N+](=O)[O-] | C13H19FN4O2
